US04265812
Preparation of N-(2-Fluorosulfonylethyl)-2-methyl-5-acetamidoaniline
2-Methyl-5-acetamido aniline (49.2 g, 0.3 m), triethyl amine (32.7 g, 0.3 m) and p-dioxane (350 ml) are stirred together at room temperature. 2-Chloroethane sulfonylfluoride (43.0 g, 0.3 m) is added dropwise allowing temperature to rise to 45° C. The reaction mixture is then heated at reflux for 3 hrs. When thin-layer chromatography shows reaction to be complete, the reaction is allowed to cool and then drowned into water (2000 ml). The product is collected by filtration, washed with water and melts at 154°-155° C.

reactant | 2-Methyl-5-acetamido aniline | 49.2 g | CC1=C(N)C=C(C=C1)NC(C)=O | C9H12N2O
reactant | triethyl amine | 32.7 g | C(C)N(CC)CC | C6H15N
reactant | p-dioxane | 350 ml | O1CCOCC1 | C4H8O2
reactant | 2-Chloroethane sulfonylfluoride | 43.0 g | ClCCS(=O)(=O)F | C2H4ClFO2S
solvent | water | 2000 ml | O | H2O
product | N-(2-Fluorosulfonylethyl)-2-methyl-5-acetamidoaniline | FS(=O)(=O)CCNC1=C(C=CC(=C1)NC(C)=O)C | C11H15FN2O3S
